* Created by KLayout
*** My special header ***

* cell BUF_SSF
* pin IBN40U
* pin VDD
* pin VIN
* pin VOUT
* pin VSS
.SUBCKT BUF_SSF IBN40U VDD VIN VOUT VSS
* device instance $1 r0 *1 -24.4,79.7 NMOS
XM$1 VOUT VIN \$13 VSS NMOS L=1u W=320u AS=493p AD=493p PS=428.6u PD=428.6u
* device instance $33 m0 *1 14.4,-11.5 NMOS
XM$33 VSS VSS VSS VSS NMOS L=2u W=120u AS=232p AD=284p PS=206.4u PD=256.8u
* device instance $34 m0 *1 19.4,-11.5 NMOS
XM$34 VSS \$4 VOUT VSS NMOS L=2u W=640u AS=960p AD=960p PS=832u PD=832u
* device instance $51 m0 *1 14.4,9.3 NMOS
XM$51 \$4 \$4 VSS VSS NMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
* device instance $106 m0 *1 -24.6,-11.5 NMOS
XM$106 VSS IBN40U \$1 VSS NMOS L=2u W=160u AS=240p AD=240p PS=208u PD=208u
* device instance $111 m0 *1 -29.6,9.3 NMOS
XM$111 IBN40U IBN40U VSS VSS NMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
* device instance $129 m0 *1 14.4,141.9 PMOS
XM$129 VDD VDD VDD VDD PMOS L=2u W=120u AS=232p AD=284p PS=206.4u PD=256.8u
* device instance $130 m0 *1 19.4,141.9 PMOS
XM$130 VDD \$13 VOUT VDD PMOS L=2u W=640u AS=960p AD=960p PS=832u PD=832u
* device instance $201 r0 *1 -40,204.3 PMOS
XM$201 \$4 \$1 VDD VDD PMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
* device instance $202 r0 *1 -35,204.3 PMOS
XM$202 VDD \$1 \$13 VDD PMOS L=2u W=160u AS=240p AD=240p PS=208u PD=208u
* device instance $207 r0 *1 -40,183.5 PMOS
XM$207 \$1 \$1 VDD VDD PMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
.ENDS BUF_SSF
