* Created by KLayout
*** My special header ***

* cell NMOS640um
* pin VSS
.SUBCKT NMOS640um VSS
* cell instance $1 r0 *1 51.9,67.6
X$1 VSS VSS VSS VSS VSS \$11 VSS VSS VSS VSS VSS VSS VSS VSS VSS NMOS320um
* cell instance $2 m0 *1 51.9,26
X$2 VSS VSS VSS VSS VSS \$11 VSS VSS VSS VSS VSS VSS VSS VSS VSS NMOS320um
.ENDS NMOS640um

* cell NMOS320um
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin VSS
* pin 
* pin 
* pin 
* pin 
.SUBCKT NMOS320um \$1 \$18 \$19 \$21 \$23 \$24 \$63 \$65 \$112 \$114 VSS \$I146
+ \$I16 \$I15 \$I14
* device instance $1 r0 *1 -42.5,10.4 NMOS
XM$1 \$63 \$I15 \$65 VSS NMOS L=2u W=10u AS=28p AD=15p PS=25.6u PD=13u
* device instance $2 r0 *1 -37.5,10.4 NMOS
XM$2 \$65 \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $3 r0 *1 -32.5,10.4 NMOS
XM$3 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $4 r0 *1 -27.5,10.4 NMOS
XM$4 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $5 r0 *1 -22.5,10.4 NMOS
XM$5 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $6 r0 *1 -17.5,10.4 NMOS
XM$6 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $7 r0 *1 -12.5,10.4 NMOS
XM$7 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $8 r0 *1 -7.5,10.4 NMOS
XM$8 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $9 r0 *1 -2.5,10.4 NMOS
XM$9 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $10 r0 *1 2.5,10.4 NMOS
XM$10 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $11 r0 *1 7.5,10.4 NMOS
XM$11 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $12 r0 *1 12.5,10.4 NMOS
XM$12 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $13 r0 *1 17.5,10.4 NMOS
XM$13 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $14 r0 *1 22.5,10.4 NMOS
XM$14 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $15 r0 *1 27.5,10.4 NMOS
XM$15 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $16 r0 *1 32.5,10.4 NMOS
XM$16 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $17 r0 *1 37.5,10.4 NMOS
XM$17 \$24 \$1 \$112 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $18 r0 *1 42.5,10.4 NMOS
XM$18 \$112 \$I146 \$114 VSS NMOS L=2u W=10u AS=15p AD=28p PS=13u PD=25.6u
* device instance $19 r0 *1 -42.5,-10.4 NMOS
XM$19 \$18 \$I16 \$19 VSS NMOS L=2u W=10u AS=28p AD=15p PS=25.6u PD=13u
* device instance $20 r0 *1 -37.5,-10.4 NMOS
XM$20 \$19 \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $21 r0 *1 -32.5,-10.4 NMOS
XM$21 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $22 r0 *1 -27.5,-10.4 NMOS
XM$22 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $23 r0 *1 -22.5,-10.4 NMOS
XM$23 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $24 r0 *1 -17.5,-10.4 NMOS
XM$24 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $25 r0 *1 -12.5,-10.4 NMOS
XM$25 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $26 r0 *1 -7.5,-10.4 NMOS
XM$26 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $27 r0 *1 -2.5,-10.4 NMOS
XM$27 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $28 r0 *1 2.5,-10.4 NMOS
XM$28 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $29 r0 *1 7.5,-10.4 NMOS
XM$29 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $30 r0 *1 12.5,-10.4 NMOS
XM$30 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $31 r0 *1 17.5,-10.4 NMOS
XM$31 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $32 r0 *1 22.5,-10.4 NMOS
XM$32 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $33 r0 *1 27.5,-10.4 NMOS
XM$33 \$24 \$1 VSS VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $34 r0 *1 32.5,-10.4 NMOS
XM$34 VSS \$1 \$24 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $35 r0 *1 37.5,-10.4 NMOS
XM$35 \$24 \$1 \$23 VSS NMOS L=2u W=10u AS=15p AD=15p PS=13u PD=13u
* device instance $36 r0 *1 42.5,-10.4 NMOS
XM$36 \$23 \$I14 \$21 VSS NMOS L=2u W=10u AS=15p AD=28p PS=13u PD=25.6u
.ENDS NMOS320um
