* Created by KLayout
*** My special header ***

* cell NMOS640um_CM
* pin VSS
.SUBCKT NMOS640um_CM VSS
* device instance $1 r0 *1 9.4,78 NMOS
XM$1 VSS VSS VSS VSS NMOS L=2u W=60u AS=116p AD=142p PS=103.2u PD=128.4u
* device instance $2 r0 *1 14.4,78 NMOS
XM$2 VSS \$6 \$10 VSS NMOS L=2u W=640u AS=960p AD=960p PS=832u PD=832u
* device instance $19 r0 *1 9.4,57.2 NMOS
XM$19 \$6 \$6 VSS VSS NMOS L=2u W=20u AS=56p AD=30p PS=51.2u PD=26u
.ENDS NMOS640um_CM
